US07700641B2
Synthesis of 1′[4-(trifluoromethoxy)benzyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one
Following the procedure described in EXAMPLE 10.21, and making non-critical variations using spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one to replace 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one, and 1-(bromomethyl)-4-(trifluoromethoxy)benzene to replace 2-(bromomethyl)-5-(trifluoromethyl)furan, the title compound was obtained (50%) as a white solid: mp 99-101° C.; MS (ES+) m/z 456.3 (M+1).

reactant | spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | N1C(C2(C3=CC=CC=C13)COC=1C2=CC2=C(OCO2)C1)=O | C16H11NO4
reactant | 5,5-dimethyl-5,6-dihydrospiro[benzo[1,2-b:5,4-b′]difuran-3,3′-indol]-2′(1′H)-one | CC1(C=2C(OC1)=CC=1OCC3(C(NC4=CC=CC=C34)=O)C1C2)C | C19H17NO3
reactant | 1-(bromomethyl)-4-(trifluoromethoxy)benzene | BrCC1=CC=C(C=C1)OC(F)(F)F | C8H6BrF3O
reactant | 2-(bromomethyl)-5-(trifluoromethyl)furan | BrCC=1OC(=CC1)C(F)(F)F | C6H4BrF3O
product | 1′[4-(trifluoromethoxy)benzyl]spiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-2′(1′H)-one | FC(OC1=CC=C(CN2C(C3(C4=CC=CC=C24)COC=2C3=CC3=C(OCO3)C2)=O)C=C1)(F)F | C24H16F3NO5
